### ISSUE TITLE
`exists2` is confusing as hell

### ISSUE THREAD

**Issue by wildwestrom** [SamuelSchlesinger/leanlings#11]
```lean4
/- # Existential Proofs 2: Destructuring

  Given `h : ∃ x, P x`, extract the witness with:
  • `let ⟨w, hw⟩ := h` — gives you w and hw : P w
  • `match h with | ⟨w, hw⟩ => ...`
  • In tactic mode: `cases h with | intro w hw => ...`

  TODO: Prove these by destructuring existential hypotheses.
-/

-- If there exists an even number in some property, we can extract it
theorem exists_imp' (h : ∃ n : Nat, n + n = 10) : ∃ m : Nat, m = 5 := by
  let ⟨w, hw⟩ := h
  simp

-- Existentials compose
theorem exists_add (h : ∃ n : Nat, n > 0) : ∃ m : Nat, m > 1 := by
  sorry
```
 
The first one I solved with dumb luck, but it's not clear at all to me how to solve the second one.

**Comment by SamuelSchlesinger** [comment]
Fixed in 92c6d10 (on main). The confusing part was that the first `exists2` proof destructured `h` but never used the witness. Rewrote both so destructuring is the point: the first relabels the witness (`let ⟨n, hn⟩ := h; exact ⟨n, hn⟩`), the second builds `n + 1` from `n > 0`. Clarified the comment and the hint, and dropped the `cases` mention (that tactic is introduced a unit later).
